US09326973B2
A solution of butyllithium (1.600 mL, 4.00 mmol) was added to cold (−78° C.) solution of diisopropylamine (0.565 mL, 4.00 mmol) in THF (5 mL) under nitrogen and the mixture was stirred at −78° C. 1 h. A solution of ethyl 4,4-difluorocyclohexanecarboxylate (384 mg, 2 mmol) in THF (2 mL) was added at −78° C. and the mixture was stirred for 1 h. The mixture was gradually warmed to −20° C. over 2 h and then recooled to −78° C. and connected to a balloon of oxygen and stirred at −78° C. for 1 h. The reaction mixture was added satd. NaHSO3 solution (5 mL) and allowed to warm to rt and stirred at rt overnight. The reaction mixture was diluted with ether and organic layer separated, washed with water, brine, dried (Na2SO4). Evaporation of the solvent afforded a light yellow oil which was purified by silica gel FCC (DCM) to afford ethyl 4,4-difluoro-1-hydroxycyclohexanecarboxylate as a colorless oil (143 mg). 1H NMR (400 MHz, CHLOROFORM-d) δ 4.28 (q, J=7.3 Hz, 2H), 2.23 (br. s, 1H), 2.19-1.99 (m, 6H), 1.83-1.73 (m, 2H), 1.33 (t, J=1.0 Hz, 3H).

reactant | butyllithium | 4.00 mmol, 1.600 mL | C(CCC)[Li]
reactant | diisopropylamine | 4.00 mmol, 0.565 mL | C(C)(C)NC(C)C | C6H15N
reactant | ethyl 4,4-difluorocyclohexanecarboxylate | 2 mmol, 384 mg | FC1(CCC(CC1)C(=O)OCC)F | C9H14F2O2
reactant | oxygen | O=O | O2
reactant | NaHSO3 | 5 mL | OS(=O)[O-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | ethyl 4,4-difluoro-1-hydroxycyclohexanecarboxylate | 143 mg | FC1(CCC(CC1)(C(=O)OCC)O)F | C9H14F2O3
